US07504433B2
[5-(4-Trifluoromethyl-phenyl)-thiophen-2-yl]-methanol
To a solution of 3-methyl-5-(4-Trifluoromethyl-phenyl)-thiophene-2-carbaldehyde (0.140 g, 0.518 mmole) in THF (5 mL), is added to LiBH4 (0.056 g, 2.57 mmole) in one portion at 0° C. The reaction is kept at 0° C. for 15 minutes and warmed up to room temperature for 1 hour. The reaction is quenched using 1N HCl (10 mL) at 0° C. The THF is removed on rota vapor, the aqueous solution is then extracted with ethyl acetate (2×10 mL). The combined organic solution is washed with brine (3×20 mL), dried over Na2SO4 and concentrated. The crude product is purified on a silica gel column, eluting with 20% ethyl acetate in hexane and concentrated to provide the titled compound as white solid.

reactant | 3-methyl-5-(4-Trifluoromethyl-phenyl)-thiophene-2-carbaldehyde | 0.518 mmole, 0.140 g | CC1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=O | C13H9F3OS
reactant | LiBH4 | 2.57 mmole, 0.056 g | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [5-(4-Trifluoromethyl-phenyl)-thiophen-2-yl]-methanol | FC(C1=CC=C(C=C1)C1=CC=C(S1)CO)(F)F | C12H9F3OS
